US08293916B2
Step 5: 2-Chloro-4-[1-(2,4-difluoro-phenyl)-2,5-dimethyl-1H-imidazol-4-ylethynyl]-pyridine
2-Chloro-4-iodo-pyridine (0.21 g, 1 mmol) was dissolved in 10 mL of dry THF and 0.29 mL triethyl amine. This mixture was evacuated and backfilled with argon several times to remove oxygen from the solution. Triphenylphosphine (5 mg, 0.03 eq) and bis(triphenylphosphine)palladium(II)chloride (24 mg, 0.05 eq) were added, and the reaction mixture was stirred at room temperature for 10 min. 1-(2,4-Difluoro-phenyl)-4-ethynyl-2,5-dimethyl-1H-imidazole (0.16 g, 1 mmol) and Copper(I)iodide (3 mg, 0.02 eq) were added. The reaction mixture was stirred at room temperature overnight. The solvent was evaporated. The residue was taken up in 10 mL water and extracted three times with ethyl acetate (10 mL each). The combined organic extracts were dried with magnesium sulfate, filtered and evaporated. The crude product was purified by chromatography on silica gel (n-heptane/ethyl acetate 1:1) and recrystallized from diethyl ether. The desired product was obtained as a white solid (0.1 g, 42%), MS: m/e=344.0 (M+).

reactant | 2-Chloro-4-iodo-pyridine | 1 mmol, 0.21 g | ClC1=NC=CC(=C1)I | C5H3ClIN
reactant | Triphenylphosphine | 5 mg, 0.03 eq | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1-(2,4-Difluoro-phenyl)-4-ethynyl-2,5-dimethyl-1H-imidazole | 1 mmol, 0.16 g | FC1=C(C=CC(=C1)F)N1C(=NC(=C1C)C#C)C | C13H10F2N2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | triethyl amine | 0.29 mL | C(C)N(CC)CC | C6H15N
catalyst | bis(triphenylphosphine)palladium(II)chloride | 24 mg, 0.05 eq | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
catalyst | Copper(I)iodide | 3 mg, 0.02 eq | [Cu]I
product | 2-Chloro-4-[1-(2,4-difluoro-phenyl)-2,5-dimethyl-1H-imidazol-4-ylethynyl]-pyridine | ClC1=NC=CC(=C1)C#CC=1N=C(N(C1C)C1=C(C=C(C=C1)F)F)C | C18H12ClF2N3
